US03947470
3-(4-Hydroxybenzoyl)-2-(4-tolyl)benzofuran is prepared by acylation of 2-(4-tolyl)benzofuran with p-anisoyl chloride followed by demethylation of the 3-(4-methoxybenzoyl)-2-(4-tolyl)benzofuran thus formed as described in the procedure of Example 5.

reactant | 2-(4-tolyl)benzofuran | C1(=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)C | C15H12O
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 3-(4-methoxybenzoyl)-2-(4-tolyl)benzofuran | COC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)C)C=C1 | C23H18O3
product | 3-(4-Hydroxybenzoyl)-2-(4-tolyl)benzofuran | OC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)C)C=C1 | C22H16O3
